US08022062B2
(R)-2-Benzyloxy-1-methyl-ethylamine:
Dissolve (R)-3-benzyloxy-2-(tert-butoxycarbonylamino)-propane (800 mg, 3 mmol) in DCM (10 mL), add trifluoroacetic acid (5 mL), and stir at 0° C. for 20 min. Evaporate and purify by SCX chromatography to give the title compound as a colorless oil (440 mg, 89%). MS (ES+) m/z: 166 (M+H)+.

reactant | (R)-3-benzyloxy-2-(tert-butoxycarbonylamino)-propane | 3 mmol, 800 mg | C(C1=CC=CC=C1)OC[C@@H](C)NC(=O)OC(C)(C)C | C15H23NO3
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-Benzyloxy-1-methyl-ethylamine | 440 mg, 89% | C(C1=CC=CC=C1)OC[C@@H](C)N | C10H15NO
